US04141901
To a solution of 5-chloro-2-[3-(2-chloroacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone (0.4 g) in methanol (4 ml) and chloroform (8 ml), 40% aqueous dimethylamine (0.5 g) is added, and the resultant mixture is stirred at room temperature for 24 hours. The reaction mixture is evaporated under reduced pressure, and the residue is shaken with methylene chloride (20 ml). The methylene chloride layer is washed with aqueous sodium bicarbonate and water in order, dried over sodium sulfate and evaporated under reduced pressure to remove the solvent. The residue is chromatographed on a column of silica gel, whereby 5-chloro-2-[3-(2-dimethylaminoacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone is obtained as a colorless oil.

reactant | 5-chloro-2-[3-(2-chloroacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone | 0.4 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC(CCl)=O | C19H16Cl2N4O2
reactant | dimethylamine | 0.5 g | CNC | C2H7N
solvent | methanol | 4 ml | CO | CH4O
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-[3-(2-dimethylaminoacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC(CN(C)C)=O | C21H22ClN5O2
